US04808605
A solution of 13.6 g (0.044 mol) of trans-4-(N-benzyloxycarbonyl-N-methyl-aminomethyl)cyclohexanecarboxylic acid and 9.5 ml (0.068 mol) of triethylamine in 110 ml of tetrahydrofuran is treated at -15° within 30 minutes with 6.5 ml (0.049 mol) of isobutyl chloroformate. A solution of 5.8 g (0.053 mol) of o-phenylenediamine is then added dropwise at -15° within 45 minutes. The mixture is stirred at room temperature for 1 hour and left to stand for 20 hours. After concentration under reduced pressure the residue is partitioned between water and ethyl acetate and the organic phase is washed with a 5% solution of sodium hydrogen carbonate, then with a saturated aqueous solution of sodium chloride and finally with water. The solution, dried over magnesium sulphate, is evaporated and triturated with ether. The solid product obtained (9.3 g) is dissolved in 200 ml of toluene, 3 g of p-toluenesulphonic acid are added thereto and the mixture is heated to reflux for 4 hours with a water separator. The solution is cooled, washed with a 2N sodium carbonate solution and a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The solid residue is recrystallized from ethyl acetate. There are obtained 5.6 g of benzyl [[trans-4-(2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate, m.p. 146°-148°, as a colourless crystalline powder. After chromatography on 250 g of silica gel with ethyl acetate/methylene chloride (9:1) as the elution agent the mother liquor gives a further 1.1 g of the same product, m.p. 146°-148°. Total yield: 6.7 g (40%).

reactant | trans-4-(N-benzyloxycarbonyl-N-methyl-aminomethyl)cyclohexanecarboxylic acid | 0.044 mol, 13.6 g | C(C1=CC=CC=C1)OC(=O)N(C)C[C@@H]1CC[C@H](CC1)C(=O)O | C17H23NO4
reactant | triethylamine | 0.068 mol, 9.5 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.049 mol, 6.5 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | o-phenylenediamine | 0.053 mol, 5.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | p-toluenesulphonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | benzyl [[trans-4-(2-benzimidazolyl)cyclohexyl]methyl]methylcarbamate | 5.6 g | N1=C(NC2=C1C=CC=C2)[C@@H]2CC[C@H](CC2)CN(C(OCC2=CC=CC=C2)=O)C | C23H27N3O2
